US06348487B1
Step A: Preparation of 4[methyl-(2-piperidin-1-yl-ethyl-amino]acetophenone.
4′-Fluoroacetophenone (1.5 g, 10.86 mmol), N-methyl-1-piperidineethanamine (1.54 g, 10.86 mmol) and K2CO3 (1.80 g, 13.0 mmol) in dimethylacetamide (5 mL) are heated to 100° C. with vigorous stirring for 3 days. The reaction mixture is cooled, diluted with water (50 mL), and extracted with EtOAc (3×50 mL). The organic layer is dried (magnesium sulfate) and concentrated. The product is chromatographed on silica gel eluting with 0.3% NH4OH:2.7% MeOH:97% CH2Cl2 to give 1.95 g of a brown oil.

reactant | 4′-Fluoroacetophenone | 10.86 mmol, 1.5 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | N-methyl-1-piperidineethanamine | 10.86 mmol, 1.54 g | CNCCN1CCCCC1 | C8H18N2
reactant | K2CO3 | 13.0 mmol, 1.80 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylacetamide | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 50 mL | O | H2O
product | methyl-(2-piperidin-1-yl-ethyl-amino]acetophenone | 1.95 g | CC(C(=O)C1=CC=CC=C1)NCCN1CCCCC1 | C16H24N2O
